US06689806B1
6-phenyl-2-oxindole (50 mg, 0.3 mmol) was condensed with 3-fluoro-2-hydroxybenzaldehyde (50 mg, 0.36 mmol) using method B to give 52 mg (53%) of 3-(3-fluoro-2-hydroxybenzylidene)-6-phenyl-1,3-dihydroindol-2-one as a yellow/orange solid.

reactant | 6-phenyl-2-oxindole | 0.3 mmol, 50 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 3-fluoro-2-hydroxybenzaldehyde | 0.36 mmol, 50 mg | FC=1C(=C(C=O)C=CC1)O | C7H5FO2
product | 3-(3-fluoro-2-hydroxybenzylidene)-6-phenyl-1,3-dihydroindol-2-one | 52 mg, 53% | FC=1C(=C(C=C2C(NC3=CC(=CC=C23)C2=CC=CC=C2)=O)C=CC1)O | C21H14FNO2
